US08431603B2
4-{7-[(Cyclopropylmethyl)(tetrahydrofuran-3-ylmethyl)amino]-6-methoxypyrazolo[5,1-b][1,3]thiazol-3-yl}-3,5-dimethoxybenzonitrile hydrobromide
To a mixture of 4-{7-[(cyclopropylmethyl)(tetrahydrofuran-3-ylmethyl)amino]-6-methoxypyrazolo[5,1-b][1,3]thiazol-3-yl}-3,5-dimethoxybenzonitrile (8.0 mg) and methanol (1 mL) was added hydrobromic acid (8.84M, 2.4 μL), and the mixture was stirred at room temperature for 1 hour and the solvent was distilled off under reduced pressure. Methanol (1 mL) was added to the residue and the solvent was distilled off under reduced pressure. Ethyl acetate (1 mL) was added to the resultant residue and the solvent was distilled off under reduced pressure and dried to obtain the titled compound (8.0 mg).

reactant | 4-{7-[(cyclopropylmethyl)(tetrahydrofuran-3-ylmethyl)amino]-6-methoxypyrazolo[5,1-b][1,3]thiazol-3-yl}-3,5-dimethoxybenzonitrile | 8.0 mg | C1(CC1)CN(C=1C(=NN2C1SC=C2C2=C(C=C(C#N)C=C2OC)OC)OC)CC2COCC2 | C24H28N4O4S
reactant | hydrobromic acid | 8.84M, 2.4 μL | Br | BrH
solvent | methanol | 1 mL | CO | CH4O
product | 4-{7-[(Cyclopropylmethyl)(tetrahydrofuran-3-ylmethyl)amino]-6-methoxypyrazolo[5,1-b][1,3]thiazol-3-yl}-3,5-dimethoxybenzonitrile hydrobromide | 8.0 mg | Br.C1(CC1)CN(C=1C(=NN2C1SC=C2C2=C(C=C(C#N)C=C2OC)OC)OC)CC2COCC2 | InChI=1S/C24H28N4O4S.BrH/c1-29-19-8-17(10-25)9-20(30-2)21(19)18-14-33-24-22(23(31-3)26-28(18)24)27(11-15-4-5-15)12-16-6-7-32-13-16;/h8-9,14-16H,4-7,11-13H2,1-3H3;1H
